US06696473B2
B. Preparation of 3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminobenzoic Acid Methyl Ester
In a manner similar to Example 30, intermediate 4-ethylamino-3-nitrobenzoic acid methyl ester was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. 1H-NMR (CDCl3): δ 7.73 (1H, dd), 7.65 (1H, d), 7.52 (1H, dd), 7.45-7.49 (2H, m), 7.27-7.38 (4H, m), 7.18 (1H, m), 7.06 (1H, d), 6.52 (1H, d), 5.19 (2H, s), 4.14 (1H, br t), 3.85 (3H, s), 3.78 (3H, s), 3.04 (2H, m), 1.04 (3H, t); MS(ESI): 531 (MH+).

reactant | 4-ethylamino-3-nitrobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)NCC)[N+](=O)[O-])=O | C10H12N2O4
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | 3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminobenzoic Acid Methyl Ester | COC(C1=CC(=C(C=C1)NCC)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)C=CC=C2)=O | C28H26N4O3S2
